US09259426B2
N2-(4-Fluoro-benzyl)-6-(4-fluoro-phenyl)-N4-(2,2,2-trifluoro-ethyl)-quinazoline-2,4-diamine
A mixture of 6-Bromo-N2-(4-fluoro-benzyl)-N4-(2,2,2-trifluoro-ethyl)-quinazoline-2,4-diamine (34 mg, 0.08 mmol), potassium carbonate (0.4M. 0.4 ml)), tetrakis(triphenylphosphine) palladium (10 mg) and 4-fluorophenyl boronic acid in DMF (1 ml) was heated to 170° C. for 5 minutes by microwave. The residue was purified by RP HPLC, eluting with 0.1% TFA-acetonitrile, to provide the desired product (20 mg). The product was characterized as follows: MS (m/z): 445 ([M+H]+, 100); HPLC Rt=3.10 minutes (Method A).

reactant | 6-Bromo-N2-(4-fluoro-benzyl)-N4-(2,2,2-trifluoro-ethyl)-quinazoline-2,4-diamine | 0.08 mmol, 34 mg | BrC=1C=C2C(=NC(=NC2=CC1)NCC1=CC=C(C=C1)F)NCC(F)(F)F | C17H13BrF4N4
reactant | potassium carbonate | 0.4M, 0.4 ml | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorophenyl boronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine) palladium | 10 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | N2-(4-Fluoro-benzyl)-6-(4-fluoro-phenyl)-N4-(2,2,2-trifluoro-ethyl)-quinazoline-2,4-diamine | 20 mg | FC1=CC=C(CNC2=NC3=CC=C(C=C3C(=N2)NCC(F)(F)F)C2=CC=C(C=C2)F)C=C1 | C23H17F5N4
